US08048878B2
Synthesis of 1-[(2R*,6S*)-2-(4-methoxyphenyl)-6-vinylpiperidin-1-yl]-3-buten-1-one
Diethyl cyanophosphonate (0.67 mL) was added to a solution of (2R*,6S*)-2-(4-methoxyphenyl)-6-vinylpiperidine (320 mg), vinylacetic acid (0.37 mL), and triethylamine (1.23 mL) in DMF (5 mL), and the reaction solution was stirred at room temperature for nine hours. Ethyl acetate and 1 N aqueous hydrochloric acid were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with saturated sodium bicarbonate water, dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane->heptane:ethyl acetate=1:1) to obtain 100 mg of the title compound. The property value of the compound is as follows.

reactant | Diethyl cyanophosphonate | 0.67 mL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | (2R*,6S*)-2-(4-methoxyphenyl)-6-vinylpiperidine | 320 mg | COC1=CC=C(C=C1)[C@@H]1N[C@@H](CCC1)C=C | C14H19NO
reactant | vinylacetic acid | 0.37 mL | C(=C)CC(=O)O | C4H6O2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 1.23 mL | C(C)N(CC)CC | C6H15N
product | 1-[(2R*,6S*)-2-(4-methoxyphenyl)-6-vinylpiperidin-1-yl]-3-buten-1-one | 100 mg | COC1=CC=C(C=C1)[C@@H]1N([C@@H](CCC1)C=C)C(CC=C)=O | C18H23NO2
